US08859555B2
To a solution of tert-butyl(trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylcarbamate (5 g) in diethyl ether (50 mL) at 0° C., HCl in Diethyl ether (20 mL) was added and stirred for 1 h. After completion, the solvent was evaporated and residue was triturated with Et2O (20 mL) to give crude salt. The crude salt was dissolved in water (50 mL), basified with Na2CO3 solution, extracted with EtOAc (3×50 mL). The combined extracts were washed with water (50 mL), brine (50 mL), dried over anhydrous Na2SO4, filtered and evaporated to get crude (trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine (3.6 g, 98.09%) as a white solid

reactant | tert-butyl(trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropylcarbamate | 5 g | FC(C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O)(F)F | C21H22F3NO2
reactant | HCl | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | Diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | (trans)-2-(3′-(trifluoromethyl)biphenyl-4-yl)cyclopropanamine | 3.6 g, 98.09% | FC(C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)N)(F)F | C16H14F3N
